US07517880B2
N-(2,4-Dimethoxy-5-(trifluoromethyl)phenyl)-N′-(4-methylphenyl)urea:
p-Tolyl isocyanate (0.16 mL, 1.24 mmol) was added to a solution of 2,4-dimethoxy-5-(trifluoromethyl)aniline (0.25 g, 1.13 mmol) in EtOAc (3 mL) and the resulting mixture was stirred at room temp. for 18 h. The resulting precipitate was washed with Et2O to give the title compound as a white solid (0.36 g): 1H-NMR (CDCl3) δ 2.21 (s, 3H), 3.97 (s, 3H), 3.86 (s, 3H), 6.88 (s, 1H), 7.05 (d, J=8.5 Hz, 2H), 7.29 (d, J=8.5 Hz, 2H), 8.13 (s, 1H), 8.33 (s, 1H), 9.09 (s, 1H); FAB-MS m/z 355 ((M+1)+). B1e. General Method for the Reaction of an Aryl Amine with an Aryl Isocyanate

reactant | p-Tolyl isocyanate | 1.24 mmol, 0.16 mL | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
reactant | 2,4-dimethoxy-5-(trifluoromethyl)aniline | 1.13 mmol, 0.25 g | COC1=C(N)C=C(C(=C1)OC)C(F)(F)F | C9H10F3NO2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | N-(2,4-Dimethoxy-5-(trifluoromethyl)phenyl)-N′-(4-methylphenyl)urea | 0.36 g | COC1=C(C=C(C(=C1)OC)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)C | C17H17F3N2O3
